US08293736B2
1-(3-(2-(2-(dimethylamino)-1H-benzo[d]imidazol-1-yl)-9-methyl-6-morpholino-9H-purin-8-yloxy)azetidin-1-yl)-2-methylpropan-1-one 131
The compound was prepared from 1-(3-(2-chloro-9-methyl-6-morpholino-9H-purin-8-yloxy)azetidin-1-yl)-2-methylpropan-1-one and N,N-dimethyl-1H-benzo[d]imidazol-2-amine following General Procedure of Buchwald coupling shown in Scheme 3. 1H NMR (400 MHz, CDCl3) δ 8.29 (s, OH), 7.58 (d, J=7.5 Hz, 1H), 7.49 (d, J=7.8 Hz, 1H), 7.15 (dd, J=11.0, 4.3 Hz, 1H), 7.01 (dd, J=10.1, 4.2 Hz, 1H), 5.58-5.45 (m, 1H), 4.60 (d, J=7.2 Hz, 2H), 4.53-4.39 (m, 2H), 4.31 (d, J=9.6 Hz, 1H), 4.19 (s, 5H), 3.88-3.74 (m, 4H), 3.65 (s, 2H), 3.60 (s, 1H), 3.17 (s, 1H), 2.98 (s, 4H), 2.56-2.42 (m, 1H), 1.14 (d, J=6.8 Hz, 5H). LCMS: M+H+=520.2.

reactant | 1-(3-(2-chloro-9-methyl-6-morpholino-9H-purin-8-yloxy)azetidin-1-yl)-2-methylpropan-1-one | ClC1=NC(=C2N=C(N(C2=N1)C)OC1CN(C1)C(C(C)C)=O)N1CCOCC1 | C17H23ClN6O3
reactant | N,N-dimethyl-1H-benzo[d]imidazol-2-amine | CN(C1=NC2=C(N1)C=CC=C2)C | C9H11N3
product | 1-(3-(2-(2-(dimethylamino)-1H-benzo[d]imidazol-1-yl)-9-methyl-6-morpholino-9H-purin-8-yloxy)azetidin-1-yl)-2-methylpropan-1-one | CN(C1=NC2=C(N1C1=NC(=C3N=C(N(C3=N1)C)OC1CN(C1)C(C(C)C)=O)N1CCOCC1)C=CC=C2)C | C26H33N9O3
